US06406297B1
1.2 Synthesis of Tris[(2-hydroxybenzoyl)-2-aminoethyl]amine (TRENSAM). 1
Methyl salicylate (78 mmol) was mixed with distilled TREN (17 mmol). The mixture was sealed and heated to 100° C. overnight. The thick resulting oil was purified on a silica column eluted with 0-4% MeOH in CH2Cl2, resulting in a white powder after removal of solvent. Overnight drying in vacuo gave a colorless glass. Yield: 47%. IR (KBr) 1543, 1590, 1636 cm31 1. 1H NMR(300 MHz, CD3OD, 25 C) 2.78 (t, 3J=6.2 Hz, 6H, CH2), 3.49 (t, 3J=6.2 Hz, 6H, CH2), 6.68 (t, 3J=7.2 Hz, 3H, ArH), 6.80 (d, 3J=7.4 Hz, 3H, ArH), 7.23 (t, 3J=5.8 Hz, 3H, ArH), 7.63 (d, 3J=6.4 Hz, 3H, ArH), 8.44 (t br, 3H, NH). 13C NMR (400 MHz, CD3OD, 25 C) 39.0 (CH2), 54.6 (CH2), 117.1 (Ar), 118.4 (Ar), 120.2 (Ar), 129.0 (Ar), 134.7 (Ar), 160.9 (ArCO), 170.9 (C═O). Anal. Calcd (Found) for C27H30N4O6: C, 64.02 (63.94); H, 5.97 (5.97); N, 11.06 (11.01).

reactant | Methyl salicylate | 78 mmol | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | TREN | 17 mmol | C(CN(CCN)CCN)N | C6H18N4
reactant | KBr | [K+].[Br-]
product | Tris[(2-hydroxybenzoyl)-2-aminoethyl]amine | Yield: 47% | OC1=C(C(=O)C(CN(CC(C(C2=C(C=CC=C2)O)=O)N)CC(C(C2=C(C=CC=C2)O)=O)N)N)C=CC=C1 | C27H30N4O6
